US07511050B2
Preparation of 7-chloro-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To a solution of 3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (0.10 g, 0.38 mmol) in THF (5 mL) in a microwave reaction tube was added N-chlorosuccinimide (0.046 g, 0.42 mmol). The mixture was heated at 70° C. in a microwave oven for 20 min. After cooling to room temperature, it was purified using preparative LCMS to provide the product (0.021 g). 1HNMR (300 MHz, CD3OD): δ 4.39 (t, J=7.5 Hz, 2H), 2.46 (s, 3H), 1.91 (m, 2H), 1.39 (m, 4H), 0.92 (m, 3H). LCMS calculated for C12H16ClN6O (M+H): 295.1; found: 295.1.

reactant | 3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.38 mmol, 0.10 g | CC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C12H16N6O
reactant | N-chlorosuccinimide | 0.42 mmol, 0.046 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-chloro-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.021 g | ClC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)C)CCCCC | C12H15ClN6O
